datasets/10k_Mayr_OG.csv
SMILES Labelled
C1=C[C:61]2=[C:62](C=C1)[N:72]=[CH:71][N-:10]2.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[C:61]3=[C:62](C=CC=C3)[N:72]=[CH:71]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C[N:12]([C:11]1=[CH:10]CCCC1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12>>C[N+:12](=[C:11]1CCCC[CH:10]1[CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]2=[N:35]O[N:42]=[C:41]12)[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1[CH:20]=[CH:21][C:22](=[O:23])[O:33]1.C[Si:63](C)(C)[O:12]/[C:11](=[CH:10]\C1=CC=CC=C1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1>>C[Si:63](C)(C)[O+:12]=[C:11]([CH:10](C1=CC=CC=C1)[CH:20]1C[O:33][C:22]([O-:23])=[CH:21]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1[C:63]2=[C:62]([CH:11]([H:10])[C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>C1[C:63]2=[C:62]([CH+:11][C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2.[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4C=C[CH:20]([H:10])C1C2C43 10,11=10,20;20,21=21"
"C[C:11](=[CH2:10])[CH:62]=[CH2:63].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>C[C+:11]([CH2:10][CH2:20][C:31]12C3[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])C#[O+])[CH:62]=[CH2:63] 10,11=10,20"
"CC(C)(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2-:11][H:10])[CH:73]=[CH:74]1.C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>CC(C)(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2:11])[CH:73]=[CH:74]1.C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10,11=10,20"
"C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25].C[C:61]([O-:10])=[O:62]>>C[C:21]([CH:20]([O:10][C:61](C)=[O:62])[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([N:12]2[CH:11]=[N:10][CH:64]=[CH:63]2)C=C1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[CH:11]=[N+:12](C3=CC=CC=C3)[CH:63]=[CH:64]2)([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72].Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1=[O:21]>>CC[O:92][C:71]([CH:10]([C:20]1([O-:21])[C:31](Cl)=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41]1Cl)[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72] 10=20;20,21=21"
"CC[O:92][C:61]([CH-:10][C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)=[O:62].Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CC[O:92][C:61]([CH:10]([CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)=[O:62] 10=20;20,21=21"
"CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23].O=C(OCC1=CC=CC=C1)[NH:12][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>CC[O:33][C:22](=[C:21](C)[CH2:20][CH2:10][C:11](=[NH+:12]C(=O)OCC1=CC=CC=C1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1.[N-:10]1[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]1>>C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1.[N:10]1([F:20])[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]1 10=20;20,21=21"
"C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28.C[N:14]1[C:13]2=[C:12]([CH:11]([H:10])[C:72]3=[C:73]1[CH:74]=[CH:75][CH:76]=[CH:77]3)[CH:83]=[CH:84][CH:85]=[CH:86]2>>C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28.C[N+:14]1=[C:13]2[C:12](=[CH:11][C:72]3=[C:73]1[CH:74]=[CH:75][CH:76]=[CH:77]3)[CH:83]=[CH:84][CH:85]=[CH:86]2 10,11=10,20;12,13=11,12;14=13,14"
